US05633279
To methyl (E)-6-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate (76.0 g) in methanol (300 ml) was added 1N aqueous sodium hydroxide (300 ml). After 11/2 hours the solution was diluted with water, washed twice with ether, then acidified with dilute hydrochloric acid. The acidified solution was extracted with ether, and the extract was dried and evaporated to give (E)-6-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy -7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid, m.p. 77°-82° C. (etherhexane).

reactant | methyl (E)-6-(1,3-dihydro-6-methoxy -4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 76.0 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CCC(=O)OC)\C | C22H30O8
reactant | sodium hydroxide | 1N, 300 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | O | H2O
product | (E)-6-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy -7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CCC(=O)O)\C | C21H28O8
